US07196197B2
Preparation of 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid.
To a solution of 2,2,2-trifluoroethanol (14.7 g) and DMF (125 ml) was added sodium tert-butoxide (12.8 g) at 0° C. The solution was stirred at 20 to 25° C. for 1 hour at which point 5-bromo-2-(2,2,2-trifluoroethoxy)benzoic acid (20 g) was added followed by cupric bromide (2.0 g). The mixture was stirred at 100° C. for 10 hours, cooled to 10° C., and water (30 ml) was added followed by 20% HCl solution (90 ml). The solution was extracted with dichloromethane (3×80 ml), and the combined organic layers were washed with water (3×60 ml). The solution was concentrated to one-third of the original volume and hexane (200 ml) was added. The resulting suspension was stirred at room temperature for 2 hours, filtered and the damp cake was rinsed with hexane (2×40 ml). The damp cake was dried in vacuo at 40° C. for 5 hours to give the product as a white solid (16.02 g, yield 75.3%).

reactant | 2,2,2-trifluoroethanol | 14.7 g | FC(CO)(F)F | C2H3F3O
reactant | sodium tert-butoxide | 12.8 g | CC(C)([O-])C.[Na+]
reactant | 5-bromo-2-(2,2,2-trifluoroethoxy)benzoic acid | 20 g | BrC=1C=CC(=C(C(=O)O)C1)OCC(F)(F)F | C9H6BrF3O3
reactant | HCl | 90 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid | 16.02 g, yield 75.3% | FC(COC1=C(C(=O)O)C=C(C=C1)OCC(F)(F)F)(F)F | C11H8F6O4
